US07282595B2
Sulfuryl chloride (0.18 mol; 24.3 g) is added dropwise to cooled DMF (0.18 mol; 13.14 g) at a rate to maintain <10° C. The reaction complex is stirred at <10° C. for 30 min. 1,3-Benzodioxole is added dropwise over a period of 10 min. The reaction is then warmed to 80° C. and held for 10 min, and finally warmed to 110° C. and held for 10 min. During heating, the reaction turns brown and HCl evolution is observed. The reaction is cooled to room temperature and left overnight under nitrogen. Next, the reaction is poured onto ice (˜150 g), chloroform (70 mL) and water (70 mL). The organic layer is collected and dripped into concentrated ammonium hydroxide (70 mL), yielding a precipitate, which is collected by filtration, washed with water and dried in vacuo at 40° C. to produce 10.28 g of benzo(1,3)dioxole-5-sulfonamide.

reactant | Sulfuryl chloride | 0.18 mol, 24.3 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | DMF | 0.18 mol, 13.14 g | CN(C)C=O | C3H7NO
reactant | 1,3-Benzodioxole | O1COC2=C1C=CC=C2 | C7H6O2
reactant | HCl | Cl | ClH
solvent | water | 70 mL | O | H2O
solvent | chloroform | 70 mL | C(Cl)(Cl)Cl | CHCl3
product | benzo(1,3)dioxole-5-sulfonamide | 10.28 g | O1COC2=C1C=CC(=C2)S(=O)(=O)N | C7H7NO4S
